US06416861B1
Preparation of 1-Allyldimethylsilyl-4-bromobenzene (1 Scheme 1).
To a solution 1,4-dibromobenzene (28.3 g, 120 mmol) in dried THF (300 mL) at −78° C. was added n-butyllithium (40.0 mL, 2.5 M solution in hexanes, 100 mmol) over a period of 20 min. After 30 min of further stirring at −78° C., allylchlorodimethylsilane (13.5 g, 100 mmol) in THF (50 mL) was added dropwise over a period of 20 min, and the reaction mixture was warmed to room temperature. After stirring for 1 h at room temperature the reaction mixture was concentrated, and the residue was extracted with ether and brine. The organic layer was dried (Na2SO4) and distilled under reduced pressure to provide colorless liquid (21.9 g, 82%, b.p. 72° C./0.1 mmHg); 1H NMR (300 MHz, CDCl3) δ 0.31 (s, 6 H), 1.77 (d, J=8.07 Hz, 2 H), 4.87 (m, 1 H), 4.92 (m, 1 H), 5.78 (ddt, J=17.55, 9.51, and 8.07 Hz, 1 H), 7.41 (d, J=8.28 Hz, 2 H), 7.52 (d, J=8.28 Hz, 2H); 13C NMR (75 MHz, CDCl3) −3.5 (2 C), 23.6, 113.8, 123.9, 130.9 (2 C), 134.2, 135.3 (2 C), 137.5; HRMS calcd for C11H15BrSi 254.0127 and 254.0107, found 254.0128 and 256.0109.

reactant | 1,4-dibromobenzene | 120 mmol, 28.3 g | BrC1=CC=C(C=C1)Br | C6H4Br2
reactant | n-butyllithium | 100 mmol, 2.5 M, 40.0 mL | C(CCC)[Li]
reactant | allylchlorodimethylsilane | 100 mmol, 13.5 g | C(C=C)[Si](C)(C)Cl | C5H11ClSi
solvent | THF | 300 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 1-Allyldimethylsilyl-4-bromobenzene | C(C=C)C1=C(C=C(C=C1)Br)[SiH](C)C | C11H15BrSi
